*  Sonnet Data File
*  From: emgraph Version : 16.56
*  From Project: Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness
*  Data is De-embedded 
*  Data File Written: 03/24/2020 17:01:58
* < HDATE 03/06/2020 17:23:53
* < MDATE 03/06/2020 17:24:47
* < PARAMS
* < ILD_thickness = 0.1
* < ILD_dielectric_const = 4.2
* < END PARAMS
*  Spice Data
* Limits: C>0.01pF L<100.0nH R<1000.0Ohms K>0.01
    *  Analysis frequencies: 100.0, 110.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param08_0 1 2 3 4 REF
C_C1 1 REF 0.5582926744471pf
C_C2 1 2 20.244100657565pf
C_C3 1 3 0.0541092256545pf
C_C4 1 4 0.2600661714873pf
C_C5 2 REF 0.8399921681221pf
C_C6 2 3 0.1777220173259pf
C_C7 3 REF 1.0496464967673pf
C_C8 3 4 4.3519623919842pf
C_C9 4 REF 1.16595251883pf
L_L1 3 5 1.292483387808nh
R_RL1 5 4 1.0e-5
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param08_0

    *  Analysis frequencies: 110.0, 120.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param08_1 1 2 3 4 REF
C_C1 1 REF 0.5276829385971pf
C_C2 1 2 20.797540516894pf
C_C3 1 3 0.0472585898563pf
C_C4 1 4 0.2706265442096pf
C_C5 2 REF 0.8167356991766pf
C_C6 2 3 0.1677217610314pf
C_C7 3 REF 1.0664897509203pf
C_C8 3 4 3.1791755246408pf
C_C9 4 REF 1.1497284057364pf
L_L1 3 5 1.2934139757283nh
R_RL1 5 4 -1.395697473e-5
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param08_1

    *  Analysis frequencies: 120.0, 130.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param08_2 1 2 3 4 REF
C_C1 1 REF 0.5006306441771pf
C_C2 1 2 21.447168281937pf
C_C3 1 3 0.0410029391192pf
C_C4 1 4 0.2814545223166pf
C_C5 2 REF 0.7984780019587pf
C_C6 2 3 0.1607986687327pf
C_C7 3 REF 1.079676331802pf
C_C8 3 4 2.3605597724134pf
C_C9 4 REF 1.1372265431209pf
L_L1 3 5 1.2941888604597nh
R_RL1 5 4 1.0e-5
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param08_2

    *  Analysis frequencies: 130.0, 145.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param08_3 1 2 3 4 REF
C_C1 1 REF 0.4719030530361pf
C_C2 1 2 22.382829335744pf
C_C3 1 3 0.0337353537828pf
C_C4 1 4 0.2955910656983pf
C_C5 2 REF 0.7828757799009pf
C_C6 2 3 0.1555228612575pf
C_C7 3 REF 1.0922443525055pf
C_C8 3 4 1.656616339054pf
C_C9 4 REF 1.1254865522033pf
L_L1 3 5 1.2949721014965nh
R_RL1 5 4 1.0e-5
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param08_3

    *  Analysis frequencies: 145.0, 160.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param08_4 1 2 3 4 REF
C_C1 1 REF 0.4439445234395pf
C_C2 1 2 23.64042284707pf
C_C3 1 3 0.0256017931871pf
C_C4 1 4 0.3132920481651pf
C_C5 2 REF 0.7733058767517pf
C_C6 2 3 0.1527710534223pf
C_C7 3 REF 1.1031720442407pf
C_C8 3 4 1.0930024129934pf
C_C9 4 REF 1.115388207935pf
L_L1 3 5 1.295755471024nh
R_RL1 5 4 1.0e-5
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param08_4

    *  Analysis frequencies: 160.0, 175.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param08_5 1 2 3 4 REF
C_C1 1 REF 0.4215224311552pf
C_C2 1 2 25.046173386016pf
C_C3 1 3 0.0178076707306pf
C_C4 1 4 0.3320848943204pf
C_C5 2 REF 0.7722291701329pf
C_C6 2 3 0.1530307096369pf
C_C7 3 REF 1.1107584977382pf
C_C8 3 4 0.7205404556202pf
C_C9 4 REF 1.1084001220667pf
L_L1 3 5 1.2963825905265nh
R_RL1 5 4 1.5941232505e-5
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param08_5

    *  Analysis frequencies: 175.0, 190.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param08_6 1 2 3 4 REF
C_C1 1 REF 0.4030225256461pf
C_C2 1 2 26.598229517277pf
C_C3 1 3 0.0101388942606pf
C_C4 1 4 0.3521129901754pf
C_C5 2 REF 0.7778999457178pf
C_C6 2 3 0.155595102859pf
C_C7 3 REF 1.1159218190427pf
C_C8 3 4 0.4657760321173pf
C_C9 4 REF 1.1036095189627pf
L_L1 3 5 1.2968963379367nh
R_RL1 5 4 1.9956039068e-5
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param08_6

    *  Analysis frequencies: 190.0, 210.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param08_7 1 2 3 4 REF
C_C1 1 REF 0.3844728348394pf
C_C2 1 2 28.618239828761pf
C_C3 1 4 0.3774210989689pf
C_C4 2 REF 0.7912540665521pf
C_C5 2 3 0.1609560736025pf
C_C6 3 REF 1.1197079020952pf
C_C7 3 4 0.2628100973102pf
C_C8 4 REF 1.1000253029691pf
L_L1 3 5 1.2973803858908nh
R_RL1 5 4 2.171028973e-5
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param08_7

    *  Analysis frequencies: 210.0, 230.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param08_8 1 2 3 4 REF
C_C1 1 REF 0.3650183657385pf
C_C2 1 2 31.201792902145pf
C_C3 1 4 0.4089439802961pf
C_C4 2 REF 0.8127029426211pf
C_C5 2 3 0.1694687936979pf
C_C6 3 REF 1.1220280514712pf
C_C7 3 4 0.1067768123203pf
C_C8 4 REF 1.0977420921189pf
L_L1 1 5 83.343138580305nh
R_RL1 5 2 2.6233328175349
L_L2 3 6 1.2978042937435nh
R_RL2 6 4 2.133743692e-5
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param08_8

    *  Analysis frequencies: 230.0, 255.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param08_9 1 2 3 4 REF
C_C1 1 REF 0.3423875318284pf
C_C2 1 2 34.583234667418pf
C_C3 1 4 0.4491086355837pf
C_C4 2 REF 0.8431587156551pf
C_C5 2 3 0.181907911213pf
C_C6 3 REF 1.1228797116928pf
C_C7 4 REF 1.0968141262243pf
L_L1 1 5 52.203946688892nh
R_RL1 5 2 2.3399562238264
L_L2 3 6 1.2981161397138nh
R_RL2 6 4 1.8636981622e-5
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param08_9

    *  Analysis frequencies: 255.0, 280.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param08_10 1 2 3 4 REF
C_C1 1 REF 0.3132366812405pf
C_C2 1 2 39.056938887467pf
C_C3 1 4 0.500941929633pf
C_C4 2 REF 0.8831572359876pf
C_C5 2 3 0.1990579018315pf
C_C6 3 REF 1.1225063918208pf
C_C7 4 REF 1.0970989586978pf
L_L1 1 5 32.53631457899nh
R_RL1 5 2 1.4328313790938
L_L2 3 6 1.2979458918573nh
R_RL2 6 4 1.48536692e-5
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param08_10

    *  Analysis frequencies: 280.0, 310.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param08_11 1 2 3 4 REF
C_C1 1 REF 0.2714663155724pf
C_C2 1 2 45.303516412629pf
C_C3 1 4 0.5716834066181pf
C_C4 2 REF 0.9361409452745pf
C_C5 2 3 0.2230909464356pf
C_C6 3 REF 1.1211393764727pf
C_C7 4 REF 1.0984789847587pf
R_R1 1 2 -948.5025720348
L_L1 1 5 19.99580101098nh
R_RL1 5 2 0.4727038775854
L_L2 3 6 1.2976155587621nh
R_RL2 6 4 1.1320387785e-5
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param08_11

    *  Analysis frequencies: 310.0, 340.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param08_12 1 2 3 4 REF
C_C1 1 REF 0.2080838307441pf
C_C2 1 2 54.428382392065pf
C_C3 1 4 0.6732937972575pf
C_C4 2 REF 1.0089662083023pf
C_C5 2 3 0.2576774925764pf
C_C6 3 REF 1.1190880069293pf
C_C7 4 REF 1.1007527447084pf
R_R1 1 2 -709.8895774122
L_L1 1 5 11.961561444169nh
R_RL1 5 2 -0.241288848709
L_L2 3 6 1.2971064961583nh
R_RL2 6 4 1.0407278751e-5
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param08_12

    *  Analysis frequencies: 340.0, 375.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param08_13 1 2 3 4 REF
C_C1 1 REF 0.1028567964664pf
C_C2 1 2 69.131529106253pf
C_C3 1 4 0.8353393615533pf
C_C4 2 REF 1.1207873882929pf
C_C5 2 3 0.3123377369064pf
C_C6 3 REF 1.1165539202837pf
C_C7 4 REF 1.1038652553462pf
R_R1 1 2 -623.1687696048
L_L1 1 5 6.9259512747084nh
R_RL1 5 2 -0.616791051019
L_L2 3 6 1.2962379274377nh
R_RL2 6 4 1.0e-5
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param08_13

    *  Analysis frequencies: 375.0, 410.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param08_14 1 2 3 4 REF
C_C1 1 2 95.355157839583pf
C_C2 1 4 1.1232546558558pf
C_C3 2 REF 1.3152613516927pf
C_C4 2 3 0.4084149952375pf
C_C5 3 REF 1.113639219911pf
C_C6 4 REF 1.1079903058665pf
R_R1 1 2 -701.0543393703
L_L1 1 5 3.4031461275398nh
R_RL1 5 2 0.0671436692158
L_L2 3 6 1.2947970112559nh
R_RL2 6 4 1.0e-5
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param08_14

    *  Analysis frequencies: 410.0, 450.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param08_15 1 2 3 4 REF
C_C1 1 2 152.77105774376pf
C_C2 1 4 1.7536720729837pf
C_C3 2 REF 1.7373032528781pf
C_C4 2 3 0.6170294356118pf
C_C5 3 REF 1.1100081219151pf
C_C6 4 REF 1.114451981584pf
L_L1 1 5 1.4682493123339nh
R_RL1 5 2 -6.87307873e-3
L_L2 1 6 62.965573882116nh
R_RL2 6 3 -0.121134128565
L_L3 1 7 62.241167272233nh
R_RL3 7 4 -0.123954233845
L_L4 2 8 63.058731171659nh
R_RL4 8 3 0.0302126774503
L_L5 2 9 62.337230025356nh
R_RL5 9 4 0.0305205679107
L_L6 3 10 1.2917227533811nh
R_RL6 10 4 -2.067489196e-5
Kn_K1 L_L1 L_L2 0.0715072836739
Kn_K2 L_L1 L_L3 0.0717702398971
Kn_K3 L_L1 L_L4 -0.081135982332
Kn_K4 L_L1 L_L5 -0.081756020919
Kn_K5 L_L2 L_L3 0.9896998459085
Kn_K6 L_L2 L_L4 0.9883497450603
Kn_K7 L_L2 L_L5 0.9779626895446
Kn_K8 L_L2 L_L6 -0.111776925877
Kn_K9 L_L3 L_L4 0.9780170774383
Kn_K10 L_L3 L_L5 0.9882145480794
Kn_K11 L_L3 L_L6 0.0316352759493
Kn_K12 L_L4 L_L5 0.9897152317231
Kn_K13 L_L4 L_L6 -0.111533366997
Kn_K14 L_L5 L_L6 0.0317727839107
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param08_15

    *  Analysis frequencies: 450.0, 495.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param08_16 1 2 3 4 REF
C_C1 1 2 354.0814377348pf
C_C2 1 4 3.9667326422679pf
C_C3 2 REF 3.2153630617939pf
C_C4 2 3 1.3459389996324pf
C_C5 3 REF 1.102707507899pf
C_C6 4 REF 1.1321920795659pf
R_R1 1 2 101.73296627318
L_L1 1 5 51.811026735051nh
R_RL1 5 REF 0.5402591705231
L_L2 1 6 0.4344875709978nh
R_RL2 6 2 -0.015256986972
L_L3 1 7 21.62132975066nh
R_RL3 7 3 -0.038889095618
L_L4 1 8 20.940302087462nh
R_RL4 8 4 -0.041362725162
L_L5 2 9 51.488582855394nh
R_RL5 9 REF 0.4220148485949
L_L6 2 10 21.695204761009nh
R_RL6 10 3 0.008304404167
L_L7 2 11 21.018158393331nh
R_RL7 11 4 0.0085045609296
L_L8 3 12 72.885213160759nh
R_RL8 12 REF 0.4293927553171
L_L9 3 13 1.2813371373033nh
R_RL9 13 4 -5.342603564e-5
L_L10 4 14 72.192205171589nh
R_RL10 14 REF 0.4277481841572
Kn_K1 L_L1 L_L2 0.079767646175
Kn_K2 L_L1 L_L5 0.995798760125
Kn_K3 L_L1 L_L8 0.838672022894
Kn_K4 L_L1 L_L10 0.8425898732375
Kn_K5 L_L2 L_L3 0.0588275789249
Kn_K6 L_L2 L_L4 0.059116575524
Kn_K7 L_L2 L_L5 1.0
Kn_K8 L_L2 L_L6 -0.082789074031
Kn_K9 L_L2 L_L7 -0.084770656306
Kn_K10 L_L2 L_L8 1.0
Kn_K11 L_L2 L_L10 1.0
Kn_K12 L_L3 L_L4 0.9700187341359
Kn_K13 L_L3 L_L5 1.0
Kn_K14 L_L3 L_L6 0.9899709149897
Kn_K15 L_L3 L_L7 0.9597623857124
Kn_K16 L_L3 L_L8 1.0
Kn_K17 L_L3 L_L9 -0.186413277644
Kn_K18 L_L3 L_L10 1.0
Kn_K19 L_L4 L_L5 1.0
Kn_K20 L_L4 L_L6 0.9599998399586
Kn_K21 L_L4 L_L7 0.989646519905
Kn_K22 L_L4 L_L8 1.0
Kn_K23 L_L4 L_L9 0.0579458080856
Kn_K24 L_L4 L_L10 1.0
Kn_K25 L_L5 L_L8 0.8380592470503
Kn_K26 L_L5 L_L10 0.8419412062461
Kn_K27 L_L6 L_L7 0.9701233729867
Kn_K28 L_L6 L_L8 1.0
Kn_K29 L_L6 L_L9 -0.185718070674
Kn_K30 L_L6 L_L10 1.0
Kn_K31 L_L7 L_L8 1.0
Kn_K32 L_L7 L_L9 0.0582219742468
Kn_K33 L_L7 L_L10 1.0
Kn_K34 L_L8 L_L9 0.1021507725457
Kn_K35 L_L8 L_L10 0.9911792161922
Kn_K36 L_L9 L_L10 1.0
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param08_16

    *  Analysis frequencies: 495.0, 545.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param08_17 1 2 3 4 REF
C_C1 1 2 6731.1195492312pf
C_C2 1 4 73.832217973389pf
C_C3 2 REF 49.883974770557pf
C_C4 2 3 24.297241393886pf
C_C5 3 REF 0.9333639139063pf
C_C6 4 REF 1.643726540236pf
R_R1 1 REF -37.60466008139
R_R2 1 2 0.3513910932083
R_R3 1 3 -69.8130218186
R_R4 1 4 24.285130314221
R_R5 2 REF 37.622431157875
R_R6 2 3 69.823550278325
R_R7 2 4 -24.28803172128
L_L1 1 5 1.7524308733773nh
R_RL1 5 REF 0.0011965724144
L_L2 1 6 0.0153140666921nh
R_RL2 6 2 -6.481194521e-3
L_L3 1 7 1.4525031235418nh
R_RL3 7 3 -2.427639625e-3
L_L4 1 8 0.9316797338202nh
R_RL4 8 4 -5.757440404e-3
L_L5 2 9 1.74221849037nh
R_RL5 9 REF -8.221537585e-3
L_L6 2 10 1.4542501823521nh
R_RL6 10 3 -9.931739323e-4
L_L7 2 11 0.937765828893nh
R_RL7 11 4 1.1998869273e-4
L_L8 3 12 3.1900298813724nh
R_RL8 12 REF -3.019682093e-3
L_L9 3 13 1.0162859557679nh
R_RL9 13 4 -6.860256227e-4
L_L10 4 14 2.6635014467295nh
R_RL10 14 REF -6.91900275e-3
Kn_K1 L_L1 L_L2 0.0779102692719
Kn_K2 L_L1 L_L5 0.9956221043614
Kn_K3 L_L1 L_L8 0.7380271446151
Kn_K4 L_L1 L_L10 0.8063669494415
Kn_K5 L_L2 L_L3 0.0454831230175
Kn_K6 L_L2 L_L4 0.0386275944508
Kn_K7 L_L2 L_L5 1.0
Kn_K8 L_L2 L_L6 -0.057162715479
Kn_K9 L_L2 L_L7 -0.089288307697
Kn_K10 L_L2 L_L8 1.0
Kn_K11 L_L2 L_L9 -0.017390419361
Kn_K12 L_L2 L_L10 1.0
Kn_K13 L_L3 L_L4 0.5879379697118
Kn_K14 L_L3 L_L5 1.0
Kn_K15 L_L3 L_L6 0.9947317357803
Kn_K16 L_L3 L_L7 0.5802147027497
Kn_K17 L_L3 L_L8 0.8106516030087
Kn_K18 L_L3 L_L9 -0.632569528764
Kn_K19 L_L3 L_L10 0.8857162842146
Kn_K20 L_L4 L_L5 1.0
Kn_K21 L_L4 L_L6 0.5836207987017
Kn_K22 L_L4 L_L7 0.9918134867122
Kn_K23 L_L4 L_L8 1.0
Kn_K24 L_L4 L_L9 0.2545889591666
Kn_K25 L_L4 L_L10 1.0
Kn_K26 L_L5 L_L8 0.7376505507561
Kn_K27 L_L5 L_L10 0.8049438160572
Kn_K28 L_L6 L_L7 0.5890287115509
Kn_K29 L_L6 L_L8 0.8073882352732
Kn_K30 L_L6 L_L9 -0.630404867966
Kn_K31 L_L6 L_L10 0.8810434242533
Kn_K32 L_L7 L_L8 1.0
Kn_K33 L_L7 L_L9 0.2559838017209
Kn_K34 L_L7 L_L10 1.0
Kn_K35 L_L8 L_L9 0.4284284945178
Kn_K36 L_L8 L_L10 0.8297443007438
Kn_K37 L_L9 L_L10 1.0
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param08_17

    *  Analysis frequencies: 545.0, 600.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param08_18 1 2 3 4 REF
C_C1 1 REF 49.368337965271pf
C_C2 1 3 24.097842532655pf
C_C3 2 4 73.104584413656pf
C_C4 3 REF 1.2846549812577pf
C_C5 4 REF 0.5705953994861pf
R_R1 1 REF 44.259033508332
R_R2 1 2 -0.430133810526
R_R3 1 3 81.07785908855
R_R4 1 4 -28.42286623661
R_R5 2 REF -44.21371628835
R_R6 2 3 -81.07518260444
R_R7 2 4 28.424094994648
L_L1 1 5 1.4719630302643nh
R_RL1 5 REF 0.0011282645795
L_L2 1 6 0.0217324454684nh
R_RL2 6 2 0.4048335307553
L_L3 1 7 1.281010598805nh
R_RL3 7 3 0.1301678541484
L_L4 1 8 0.7898596503227nh
R_RL4 8 4 0.2747963364752
L_L5 2 9 1.4664525564736nh
R_RL5 9 REF 0.4285137612582
L_L6 2 10 1.2811149206568nh
R_RL6 10 3 0.0758638638902
L_L7 2 11 0.7937464801016nh
R_RL7 11 4 0.0123391744476
L_L8 3 12 2.7405122519082nh
R_RL8 12 REF 0.1440062131109
L_L9 3 13 0.9685369866032nh
R_RL9 13 4 0.0265667204038
L_L10 4 14 2.2527559626365nh
R_RL10 14 REF 0.293997308262
Kn_K1 L_L1 L_L2 0.0761589411071
Kn_K2 L_L1 L_L5 0.9926057713508
Kn_K3 L_L1 L_L8 0.7297772919323
Kn_K4 L_L1 L_L10 0.8058454740388
Kn_K5 L_L2 L_L3 0.0648124123921
Kn_K6 L_L2 L_L4 0.0681039461269
Kn_K7 L_L2 L_L5 1.0
Kn_K8 L_L2 L_L6 -0.065434984964
Kn_K9 L_L2 L_L7 -0.097530766759
Kn_K10 L_L2 L_L8 1.0
Kn_K11 L_L2 L_L9 -0.013035792737
Kn_K12 L_L2 L_L10 1.0
Kn_K13 L_L3 L_L4 0.5479382152588
Kn_K14 L_L3 L_L5 1.0
Kn_K15 L_L3 L_L6 0.9915178069156
Kn_K16 L_L3 L_L7 0.5358706279588
Kn_K17 L_L3 L_L8 0.782280374948
Kn_K18 L_L3 L_L9 -0.655232689362
Kn_K19 L_L3 L_L10 0.8638212048391
Kn_K20 L_L4 L_L5 1.0
Kn_K21 L_L4 L_L6 0.5390457233456
Kn_K22 L_L4 L_L7 0.9862795801689
Kn_K23 L_L4 L_L8 0.9962396727762
Kn_K24 L_L4 L_L9 0.2729019558123
Kn_K25 L_L4 L_L10 1.0
Kn_K26 L_L5 L_L8 0.729746738241
Kn_K27 L_L5 L_L10 0.8047729842623
Kn_K28 L_L6 L_L7 0.5485516805609
Kn_K29 L_L6 L_L8 0.7807502399029
Kn_K30 L_L6 L_L9 -0.653508167174
Kn_K31 L_L6 L_L10 0.8610202246944
Kn_K32 L_L7 L_L8 0.991894003604
Kn_K33 L_L7 L_L9 0.2743899640573
Kn_K34 L_L7 L_L10 1.0
Kn_K35 L_L8 L_L9 0.4469355180148
Kn_K36 L_L8 L_L10 0.8099047383946
Kn_K37 L_L9 L_L10 1.0
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param08_18

    *  Analysis frequencies: 600.0, 660.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param08_19 1 2 3 4 REF
C_C1 1 2 261.71686542639pf
C_C2 1 4 2.9464213790992pf
C_C3 2 REF 2.539121412096pf
C_C4 2 3 1.011846965072pf
C_C5 3 REF 1.1015585095926pf
C_C6 4 REF 1.1249543483204pf
R_R1 1 2 -48.7985843296
L_L1 1 5 44.388627223507nh
R_RL1 5 REF 1.2789513050327
L_L2 1 6 0.1890913623194nh
R_RL2 6 2 0.013336490625
L_L3 1 7 16.857279426548nh
R_RL3 7 3 -0.01310899874
L_L4 1 8 16.16459999937nh
R_RL4 8 4 -0.014938567551
L_L5 2 9 43.929240406777nh
R_RL5 9 REF 1.1995300796702
L_L6 2 10 16.987003685756nh
R_RL6 10 3 0.0081303587098
L_L7 2 11 16.302456270443nh
R_RL7 11 4 0.0078785552854
L_L8 3 12 60.833738793895nh
R_RL8 12 REF 1.179823961576
L_L9 3 13 1.2742012932814nh
R_RL9 13 4 -7.771100294e-5
L_L10 4 14 60.125397464243nh
R_RL10 14 REF 1.1782298677714
Kn_K1 L_L1 L_L2 0.1119163837584
Kn_K2 L_L1 L_L5 0.9978724674044
Kn_K3 L_L1 L_L8 0.8502420900535
Kn_K4 L_L1 L_L10 0.8550842220517
Kn_K5 L_L2 L_L3 0.016625942478
Kn_K6 L_L2 L_L4 0.0146527517521
Kn_K7 L_L2 L_L5 1.0
Kn_K8 L_L2 L_L6 -0.088943734749
Kn_K9 L_L2 L_L7 -0.093107750698
Kn_K10 L_L2 L_L8 1.0
Kn_K11 L_L2 L_L10 1.0
Kn_K12 L_L3 L_L4 0.9616250078316
Kn_K13 L_L3 L_L5 1.0
Kn_K14 L_L3 L_L6 0.9944202058249
Kn_K15 L_L3 L_L7 0.9557599580727
Kn_K16 L_L3 L_L8 1.0
Kn_K17 L_L3 L_L9 -0.212195057529
Kn_K18 L_L3 L_L10 1.0
Kn_K19 L_L4 L_L5 1.0
Kn_K20 L_L4 L_L6 0.9564002067896
Kn_K21 L_L4 L_L7 0.9941848626479
Kn_K22 L_L4 L_L8 1.0
Kn_K23 L_L4 L_L9 0.0640670241538
Kn_K24 L_L4 L_L10 1.0
Kn_K25 L_L5 L_L8 0.8489782571965
Kn_K26 L_L5 L_L10 0.8537330602121
Kn_K27 L_L6 L_L7 0.9619269820346
Kn_K28 L_L6 L_L8 1.0
Kn_K29 L_L6 L_L9 -0.210509314103
Kn_K30 L_L6 L_L10 1.0
Kn_K31 L_L7 L_L8 1.0
Kn_K32 L_L7 L_L9 0.0646876867166
Kn_K33 L_L7 L_L10 1.0
Kn_K34 L_L8 L_L9 0.1125903741299
Kn_K35 L_L8 L_L10 0.9894828196439
Kn_K36 L_L9 L_L10 1.0
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param08_19

    *  Analysis frequencies: 660.0, 725.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param08_20 1 2 3 4 REF
C_C1 1 REF 0.1142117701672pf
C_C2 1 2 70.134184695754pf
C_C3 1 4 0.8332815374818pf
C_C4 2 REF 1.1335813896727pf
C_C5 2 3 0.3157531531028pf
C_C6 3 REF 1.1063680083179pf
C_C7 4 REF 1.1079599702948pf
R_R1 1 2 -292.4627365574
L_L1 1 5 0.6450388931929nh
R_RL1 5 2 0.3784190576907
L_L2 1 6 61.986163911296nh
R_RL2 6 3 -0.050867555378
L_L3 1 7 61.1386950763nh
R_RL3 7 4 -0.051583872558
L_L4 2 8 62.673989499374nh
R_RL4 8 3 0.2681725603625
L_L5 2 9 61.83187626295nh
R_RL5 9 4 0.2595079952944
L_L6 3 10 1.2867785508019nh
R_RL6 10 4 1.3397559997e-5
Kn_K1 L_L1 L_L4 -0.104814020015
Kn_K2 L_L1 L_L5 -0.105949371083
Kn_K3 L_L2 L_L3 0.9895724358641
Kn_K4 L_L2 L_L4 0.9948407644622
Kn_K5 L_L2 L_L5 0.9843554427448
Kn_K6 L_L2 L_L6 -0.11948557442
Kn_K7 L_L3 L_L4 0.9845162072915
Kn_K8 L_L3 L_L5 0.9947703310805
Kn_K9 L_L3 L_L6 0.0247645718264
Kn_K10 L_L4 L_L5 0.9896875540554
Kn_K11 L_L4 L_L6 -0.118529926232
Kn_K12 L_L5 L_L6 0.0249255723382
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param08_20

    *  Analysis frequencies: 725.0, 795.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param08_21 1 2 3 4 REF
C_C1 1 REF 0.4130811996757pf
C_C2 1 2 30.302951701273pf
C_C3 1 3 0.0169213368181pf
C_C4 1 4 0.3924149943394pf
C_C5 2 REF 0.8469748753764pf
C_C6 2 3 0.1686444415249pf
C_C7 3 REF 1.1076009773253pf
C_C8 4 REF 1.1030669378625pf
L_L1 1 5 0.9505690688098nh
R_RL1 5 2 0.1125025686467
L_L2 3 6 1.2884932306885nh
R_RL2 6 4 1.0e-5
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param08_21

    *  Analysis frequencies: 795.0, 875.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param08_22 1 2 3 4 REF
C_C1 1 REF 0.5220905585028pf
C_C2 1 2 16.417169480792pf
C_C3 1 3 0.0735670458035pf
C_C4 1 4 0.2373037642255pf
C_C5 2 REF 0.7540129715659pf
C_C6 2 3 0.114344034789pf
C_C7 3 REF 1.1082938632101pf
C_C8 4 REF 1.1003472957595pf
L_L1 1 5 1.2893291499464nh
R_RL1 5 2 -0.014191470251
L_L2 3 6 1.2859781485503nh
R_RL2 6 4 1.0e-5
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param08_22

    *  Analysis frequencies: 875.0, 960.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param08_23 1 2 3 4 REF
C_C1 1 REF 0.5723809162944pf
C_C2 1 2 10.634984030661pf
C_C3 1 3 0.1031868429698pf
C_C4 1 4 0.1709407509675pf
C_C5 2 REF 0.721764815853pf
C_C6 2 3 0.0884603227443pf
C_C7 2 4 0.0334071720143pf
C_C8 3 REF 1.107994233974pf
C_C9 4 REF 1.098104235441pf
L_L1 1 5 1.6672023827638nh
R_RL1 5 2 -0.092419250933
L_L2 3 6 1.2831838063183nh
R_RL2 6 4 2.5945893185e-5
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param08_23

    *  Analysis frequencies: 960.0, 1055.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param08_24 1 2 3 4 REF
C_C1 1 REF 0.5982961696655pf
C_C2 1 2 8.2785167594783pf
C_C3 1 3 0.1249635591577pf
C_C4 1 4 0.1396110328066pf
C_C5 2 REF 0.7148925298836pf
C_C6 2 3 0.0727528009438pf
C_C7 2 4 0.070342358582pf
C_C8 3 REF 1.1060704220427pf
C_C9 4 REF 1.0962901648965pf
L_L1 1 5 1.8438940076727nh
R_RL1 5 2 -0.015694856214
L_L2 3 6 1.2795786297603nh
R_RL2 6 4 1.0e-5
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param08_24

    *  Analysis frequencies: 1055.0, 1160.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param08_25 1 2 3 4 REF
C_C1 1 REF 0.6113098124245pf
C_C2 1 2 7.9309454153495pf
C_C3 1 3 0.1488595076763pf
C_C4 1 4 0.1241240358344pf
C_C5 2 REF 0.727426694658pf
C_C6 2 3 0.0560018309901pf
C_C7 2 4 0.0930712903681pf
C_C8 3 REF 1.1040728846741pf
C_C9 4 REF 1.0939536154141pf
L_L1 1 5 1.856039590448nh
R_RL1 5 2 -1.573316134e-3
L_L2 3 6 1.2751491983051nh
R_RL2 6 4 1.0e-5
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param08_25

    *  Analysis frequencies: 1160.0, 1200.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param08_26 1 2 3 4 REF
C_C1 1 REF 0.6131890166673pf
C_C2 1 2 8.6242568738792pf
C_C3 1 3 0.1703127974556pf
C_C4 1 4 0.1182837020528pf
C_C5 2 REF 0.7459607586821pf
C_C6 2 3 0.0401522302357pf
C_C7 2 4 0.104803661181pf
C_C8 3 REF 1.1025308286915pf
C_C9 4 REF 1.091951761473pf
L_L1 1 5 1.7329356679123nh
R_RL1 5 2 2.8888159928e-5
L_L2 3 6 1.2732434237134nh
R_RL2 6 4 1.0e-5
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param08_26

